US07262212B2
m-Chloroperbenzoic acid (22.7 g, 92 mmol) was gradually added to a solution of 3-methoxymethoxy-2-methyl-1-propene (9.7 g, 84 mmol) prepared in Reference Example 176 in methylene chloride (200 ml) while cooling in an ice-bath and the mixture was stirred at room temperature for 6 hours. Sodium hydrogencarbonate (14.1 g, 168 mmol), water and methylene chloride were added to the reaction mixture, which was stirred for a while. The organic layer was separated, washed with sodium hydrogencarbonate aqueous solution, sodium thiosulfate aqueous solution and then sodium hydrogencarbonate aqueous solution, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure to afford 2-methoxymethoxymethyl-2-methyloxirane (6.8 g, yield 62%) as a green-colored oil.

reactant | m-Chloroperbenzoic acid | 92 mmol, 22.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-methoxymethoxy-2-methyl-1-propene | 84 mmol, 9.7 g | COCOCC(=C)C | C6H12O2
reactant | Sodium hydrogencarbonate | 168 mmol, 14.1 g | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxymethoxymethyl-2-methyloxirane | 6.8 g, yield 62% | COCOCC1(OC1)C | C6H12O3
